US07087605B2
N-[1-(3-Cyclopropyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclopentanecarboxamide
In analogy to the procedure for Example 36A, 250 mg (1.29 mmol) 6-(1-aminopropyl)-3-cyclopropyl-1,2,4-triazin-5(4H)-one, 170 mg (1.29 mmol) cyclopentanecarbonyl chloride and proportionate amounts of the other reagents are used. The crude product is used in the next step without further purification.

reactant | 6-(1-aminopropyl)-3-cyclopropyl-1,2,4-triazin-5(4H)-one | 1.29 mmol, 250 mg | NC(CC)C=1C(NC(=NN1)C1CC1)=O | C9H14N4O
reactant | cyclopentanecarbonyl chloride | 1.29 mmol, 170 mg | C1(CCCC1)C(=O)Cl | C6H9ClO
product | N-[1-(3-Cyclopropyl-5-oxo-4,5-dihydro-1,2,4-triazin-6-yl)propyl]cyclopentanecarboxamide | C1(CC1)C1=NN=C(C(N1)=O)C(CC)NC(=O)C1CCCC1 | C15H22N4O2
